US07872097B2
To a solution of methyl (3S,6S,9S,12S,15R,18S,21S,24S,27S,30S)-3-sec-butyl-30-[(1R)-1-hydroxyethyl]-27-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-6,9,18,21-tetraisobutyl-24-isopropyl-8,12,15,17,23,26,32-heptamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-2,5,8,11,14,17,20,23,26,29,32-undecaazatetratriacontan-34-oate (230 mg) in MeOH (4 ml) was added 1N LiOH (1.84 ml) under ice-bath cooling. After being stirred for 1 hr at the same temperature, the solution was acidified with 5% citric acid to be pH 5, concentrated in vacuo to remove MeOH, and extracted with AcOEt (20 ml). The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The resulting residue was triturated with Et2O to give (3S,6S,9S,12S,15R,18S,21S,24S,27S,30S)-3-sec-butyl-30-[(1R)-1-hydroxyethyl]-27-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-6,9,18,21-tetraisobutyl-24-isopropyl-8,12,15,17,23,26,32-heptamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-2,5,8,11,14,17,20,23,26,29,32-undecaazatetratriacontan-34-oic acid (188 mg) as a solid.

reactant | methyl (3S,6S,9S,12S,15R,18S,21S,24S,27S,30S)-3-sec-butyl-30-[(1R)-1-hydroxyethyl]-27-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-6,9,18,21-tetraisobutyl-24-isopropyl-8,12,15,17,23,26,32-heptamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-2,5,8,11,14,17,20,23,26,29,32-undecaazatetratriacontan-34-oate | 230 mg | C(C)(CC)[C@H](NC)C(N[C@H](C(N([C@H](C(N[C@H](C(N[C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N([C@H](C(N[C@H](C(N(CC(=O)OC)C)=O)[C@@H](C)O)=O)[C@@H]([C@@H](C\C=C\C)C)O)C)=O)C(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)C)=O)C)=O)CC(C)C)C)=O)CC(C)C)=O | C63H115N11O14
reactant | LiOH | 1N, 1.84 ml | [Li+].[OH-]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 4 ml | CO | CH4O
product | (3S,6S,9S,12S,15R,18S,21S,24S,27S,30S)-3-sec-butyl-30-[(1R)-1-hydroxyethyl]-27-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-6,9,18,21-tetraisobutyl-24-isopropyl-8,12,15,17,23,26,32-heptamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-2,5,8,11,14,17,20,23,26,29,32-undecaazatetratriacontan-34-oic acid | 188 mg | C(C)(CC)[C@H](NC)C(N[C@H](C(N([C@H](C(N[C@H](C(N[C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N([C@H](C(N[C@H](C(N(CC(=O)O)C)=O)[C@@H](C)O)=O)[C@@H]([C@@H](C\C=C\C)C)O)C)=O)C(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)C)=O)C)=O)CC(C)C)C)=O)CC(C)C)=O | C62H113N11O14
